US09193720B2
A stirred ice-cold yellow mixture of (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate (6.7 g, 16.21 mmol) and 70% HClO4 (2.2 mL, 25.6 mmol) in dichloromethane (400 mL) was saturated with isobutylene gas by bubbling through the reaction mixture (10 min). The reaction mixture was cloudy sealed in a seal tube, stirred for 24 h at rt. The reaction mixture was recooled in a −10° C. bath, bubbled additional isobutylene (˜15 min). The reaction mixture became a clear solution at this point. The tube was sealed and stirred at rt for 16 h. LCMs at this point showed incomplete reaction. So, the reaction mixture was cooled down to −30° C. and bubbled isobutene (˜15 min). After 24 h, reaction mixture was neutralized with sat. Na2CO3 (20 mL), organic layer separated and aqueous layer was extracted with CH2Cl2 (25 mL). The combined organic layers were dried (MgSO4), filtered, concentrated and purified on a ISCO 120 g column (EtOAc/hex: 0 to 40%) to afford (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (5.43 g, 9.83 mmol, 60.7% yield) as a viscous oil. 1H NMR (500 MHz, CDCl3) δ 6.26 (br. s., 1H), 5.09-4.97 (m, 1H), 4.06 (br. s., 1H), 3.51 (br. s., 1H), 2.90 (br. s., 1H), 2.65 (s, 3H), 2.56 (s, 3H), 1.72-1.54 (m, 3H), 1.47 (br. s., 1H), 1.37 (br. s., 1H), 1.23-1.20 (m, 12H), 1.15 (d, J=6.1 Hz, 3H), 1.09 (br. s., 3H), 1.04 (br. s., 3H). LCMS (M+H)=471.3.

reactant | (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 16.21 mmol, 6.7 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CCC(CC1)(C)C | C19H29BrN2O3
reactant | isobutylene | CC(C)=C | C4H8
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 9.83 mmol, 5.43 g, 60.7% yield | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)(C)C | C23H37BrN2O3
